data/oMe_Silver.jsonl
{"reaction_id": "NR-313_1-C=O_2-N(=O)=O_3-N2CCOCC2_4-NC(=O)C_5-CC","level": "easy","name": "Ullmann Coupling","reactants_smiles": ["c1(C=O)c(N(=O)=O)c(N2CCOCC2)c(NC(=O)C)c(CC)c1I"],"products_smiles": ["c1(C=O)c(N(=O)=O)c(N2CCOCC2)c(NC(=O)C)c(CC)c1c2c(C=O)c(N(=O)=O)c(N2CCOCC2)c(NC(=O)C)c2(CC)"],"conditions": "Cu","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(C=O)c(N(=O)=O)c(N2CCOCC2)c(NC(=O)C)c(CC)c1[Cu]I","step_weight": 0,"rationale": "Cu(0) inserts into the aryl–iodine bond via oxidative addition because iodine is a good leaving group and the aryl–Cu bond is stabilized by π-backbonding from the aromatic ring."},{"step": 2,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "c1(C=O)c(N(=O)=O)c(N2CCOCC2)c(NC(=O)C)c(CC)c1[Cu]","step_weight": 0,"rationale": "Single-electron transfer from Cu to the aryl fragment generates a reactive aryl radical, favored by the low ionization potential of Cu and the stability of the aryl radical through resonance."},{"step": 3,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(C=O)c(N(=O)=O)c(N2CCOCC2)c(NC(=O)C)c(CC)c1[Cu](I)c2c(C=O)c(N(=O)=O)c(N2CCOCC2)c(NC(=O)C)c2(CC)","step_weight": 0,"rationale": "A second oxidative addition occurs with another aryl iodide, driven by the high reactivity of the aryl radical and the good leaving ability of iodide, forming a bis-aryl copper(III) species."},{"step": 4,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(C=O)c(N(=O)=O)c(N2CCOCC2)c(NC(=O)C)c(CC)c1c2c(C=O)c(N(=O)=O)c(N2CCOCC2)c(NC(=O)C)c2(CC)","step_weight": 0,"rationale": "Reductive elimination from the Cu(III) complex forms the biaryl product, favored by the thermodynamic stability of the C–C bond and the regeneration of the lower oxidation state Cu catalyst."}],"description": "In the Ullmann coupling, copper mediates the formation of a biaryl bond from aryl iodides. Copper undergoes oxidative addition to the aryl halide, facilitates electron transfer, and couples two aryl groups via a second oxidative addition followed by reductive elimination, forming the C–C bond."}
{"reaction_id": "NR-211_1-c1ccoc1_2-c1cnccc1_3-c1ccc(OC)cc1_4-C(F)(F)F","level": "hard","name": "Passerini Reaction","reactants_smiles": ["C(=O)(c1ccoc1)c1cnccc1","[C-]#[N+]c1ccc(OC)cc1","O=C(O)C(F)(F)F"],"products_smiles": ["O=C(C(F)(F)F)OC(C(=O)Nc1ccc(OC)cc1)(c1ccoc1)c1cnccc1"],"conditions": "acid","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=[OH+])(c1ccoc1)c1cnccc1","step_weight": 0,"rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity of the carbon and making it more susceptible to nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "OC(c1ccoc1)(c1cnccc1)C(#[N+]c1ccc(OC)cc1)","step_weight": 0,"rationale": "The isocyanide carbon, being nucleophilic due to its adjacent positive nitrogen, attacks the activated carbonyl carbon, forming a nitrilium intermediate."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[OH+]=C(C(F)(F)F)OC(=[N]c1ccc(OC)cc1)C(c1ccoc1)(c1cnccc1)O","step_weight": 0,"rationale": "The carboxylic acid oxygen attacks the electrophilic nitrilium carbon, favored by resonance stabilization of the resulting intermediate."},{"step": 4,"type": "proton_transfer","subtype": "intramolecular_proton_transfer","intermediate_smiles": "[OH]C2(C(F)(F)F)OC(=[N]c1ccc(OC)cc1)C(c1ccoc1)(c1cnccc1)O2","step_weight": 0,"rationale": "Intramolecular proton transfer stabilizes charges and positions the leaving group for the next elimination step."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(C(F)(F)F)OC(C(=O)Nc1ccc(OC)cc1)(c1ccoc1)c1cnccc1","step_weight": 0,"rationale": "Elimination of water occurs as the leaving group is stabilized by adjacent carbonyl, yielding the thermodynamically stable α-acyloxy amide."}],"description": "Under acidic conditions, the Passerini reaction proceeds via activation of the carbonyl, nucleophilic attack by isocyanide, and subsequent trapping by a carboxylic acid. Proton transfers and elimination steps drive the formation of the α-acyloxy amide product through stabilized intermediates."}
